US06403578B1
a) methyl N-[2-Nitro-4-(t-butoxycarbonyl)benzyl]-N-phenylethyl-4-aminocrotonate
To a solution of 2-nitro-4-(t-butoxycarbonyl)-benzylbromide (4.06 g, 12.8 mmol) in THF (50 mL), methyl 4-(phenylethylamino)-crotonate (3.4 g, 15.5 mmol) was added with stirring at RT. Triethylamine (2.2 mL, 15.7 mmol) was then added. After stirring for 16 h, the reaction was diluted with ethyl acetate and washed with 1N sodium carbonate, brine, dried (sodium sulfate) and concentrated. Flash chromatography (silica gel, 15% ethyl acetate/n-hexane) gave the title compound as an oil (5.16 g, 88%). 1H-NMR (CDCl3) δ1.60(9H, s), 2.74(4H, br s), 3.30(2H, dd), 3.74(3H, s), 4.00(2H, s), 6.00(1H, d, J=15 Hz), 7.02(1H, dt), 7.25(5H, m), 7.67(1H, d, J=8 Hz), 8.15(1H, dd), 8.45(1H, d, J=2 Hz).

reactant | 2-nitro-4-(t-butoxycarbonyl)-benzylbromide | 12.8 mmol, 4.06 g | [N+](=O)([O-])C1=C(CBr)C=CC(=C1)C(=O)OC(C)(C)C | C12H14BrNO4
reactant | methyl 4-(phenylethylamino)-crotonate | 15.5 mmol, 3.4 g | C1(=CC=CC=C1)CCNC/C=C/C(=O)OC | C13H17NO2
reactant | Triethylamine | 15.7 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-[2-Nitro-4-(t-butoxycarbonyl)benzyl]-N-phenylethyl-4-aminocrotonate | 5.16 g, 88% | [N+](=O)([O-])C1=C(CN(C/C=C/C(=O)OC)CCC2=CC=CC=C2)C=CC(=C1)C(=O)OC(C)(C)C | C25H30N2O6
